US08138339B2
2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-((1-methylpiperidin-4-yl)methylamino)pyrimidine-5-carboxamide
To a solution of 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(piperidin-4-ylmethylamino)pyrimidine-5-carboxamide (25 mg, 0.055 mmol) and 37% aq. CH2O (0.020 mL, 0.27 mmol) in MeOH (1 mL) and CH3CO2H (0.1 mL) at room temperature, NaBH3CN (23 mg, 0.36 mmol) was added. The solution was stirred for 20 h. The mixture was then purified by HPLC to give the titled compound (20 mg). MS 467.46 (M+H).

reactant | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(piperidin-4-ylmethylamino)pyrimidine-5-carboxamide | 0.055 mmol, 25 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1CCNCC1)C(=O)N | C23H32N8O2
reactant | CH2O | 0.27 mmol, 0.020 mL | C=O | CH2O
reactant | NaBH3CN | 0.36 mmol, 23 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | CH3CO2H | 0.1 mL | CC(=O)O | C2H4O2
product | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-((1-methylpiperidin-4-yl)methylamino)pyrimidine-5-carboxamide | 20 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1CCN(CC1)C)C(=O)N | C24H34N8O2
